US07491716B2
7-Bromo-5H-furo[3,2]pyridin-4-one
Add N-bromosuccinimide (63.16 g, 354.9 mmol) as a solution in anhydrous acetonitrile (480 mL) to a suspension of 5H-furo[3,2]pyridin-4-one (36.9 g, 273 mmol) in anhydrous acetonitrile (740 mL) at 0° C. over 1 hour. Warm to room temperature, add anhydrous methyl alcohol (1.5 L) and stir at room temperature for 18 hours. Quench with water (20 ml) and saturated sodium bicarbonate (20 mL), concentrate to a volume of 1.3 liters, and pour into water (1.3 L). Collection of the precipitate by filtration and drying (vacuum oven 2 days 40-60° C.) gives the title compound as an off-white solid.

reactant | N-bromosuccinimide | 354.9 mmol, 63.16 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 5H-furo[3,2]pyridin-4-one | 273 mmol, 36.9 g | O1C=CC=2C(CC=NC21)=O | C7H5NO2
reactant | methyl alcohol | 1.5 L | CO | CH4O
solvent | acetonitrile | 480 mL | C(C)#N | C2H3N
solvent | acetonitrile | 740 mL | C(C)#N | C2H3N
product | 7-Bromo-5H-furo[3,2]pyridin-4-one | BrN1CCC(C2=C1OC=C2)=O | C7H6BrNO2
